US08303978B2
To a solution of Salicylaldehyde (50 grams) and pyridine (48.5 grams) in dichloromethane (500 ml) maintained at 0-5° C. under nitrogen atmosphere was added dropwise bromoacetyl bromide (210.6 grams). The reaction mixture was stirred for one hour at the same temperature. The reaction mixture was washed with 1000 ml of water and 1500 ml of 5% sodium bicarbonate solution, dried over sodium sulphate followed by distillation of solvent under reduced pressure to get 60.0 grams of bromo-acetic acid 2-formyl-phenyl ester.

reactant | Salicylaldehyde | 50 grams | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | pyridine | 48.5 grams | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | 210.6 grams | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | bromo-acetic acid 2-formyl-phenyl ester | 60.0 grams | C(=O)C1=C(C=CC=C1)OC(CBr)=O | C9H7BrO3
